US07884109B2
2-(6-Fluoro-1H-benzo[d]imidazol-1-yl)-9-((R)-4-oxo-1,2,3,4-tetrahydronaphthalen-1-yl)-7H-purin-8(9H)-one.
A solution of (4R)-4-(5-amino-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)pyrimidin-4-ylamino)-3,4-dihydronaphthalen-1(2H)-one (32 mg) and CDI (100 mg) in THF (6 mL) was stirred at room temperature overnight and refluxed for 2.5 h. Volatiles were removed in vacuo and the residue was purified by preparative HPLC to afford 9 mg of the title compound as the TFA salt. 1H NMR (CD3OD) δ 9.20 (s, 1H), 8.36 (s, 1H), 8.20 (m, 1H), 7.68 (m, 1H), 7.58-7.47 (m, 3H), 7.20-7.14 (m, 2H), 6.10 (m, 1H), 3.09-2.93 (m, 3H), 2.49 (m, 1H); MS (MH+) 415.1.

reactant | (4R)-4-(5-amino-2-(6-fluoro-1H-benzo[d]imidazol-1-yl)pyrimidin-4-ylamino)-3,4-dihydronaphthalen-1(2H)-one | 32 mg | NC=1C(=NC(=NC1)N1C=NC2=C1C=C(C=C2)F)N[C@@H]2CCC(C1=CC=CC=C21)=O | C21H17FN6O
reactant | CDI | 100 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 2-(6-Fluoro-1H-benzo[d]imidazol-1-yl)-9-((R)-4-oxo-1,2,3,4-tetrahydronaphthalen-1-yl)-7H-purin-8(9H)-one | 9 mg | FC=1C=CC2=C(N(C=N2)C2=NC=C3NC(N(C3=N2)[C@@H]2CCC(C3=CC=CC=C23)=O)=O)C1 | C22H15FN6O2
